US07396844B1
Synthesis of benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-[4-(pyrrolidine-1-carbonyl)benzoylamino]butyrate
2.0 g (4.23 mmol) of (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethyl ammonium chloride, 1.02 g (4.65 mmol) of 4-pyrrolidine-1-carbonyl)benzoic acid, 630 mg (4.65 mmol) of 1-hydroxybenzotriazole, and 1.30 ml (9.31 mmol) of triethylamine were dissolved in 40 ml of dichloromethane, and 890 mg (4.65 mmol) of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride was added thereto and stirred under cooling with ice for 10 minutes and then at room temperature for 18 hours. The reaction was stopped by adding water, and the title compound was obtained in an ordinary manner by treatment with dichloromethane as the extractant.

reactant | (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethyl ammonium chloride | 4.23 mmol, 2.0 g | [Cl-].C(C1=CC=CC=C1)OC(=O)C[C@H](COC1=C(C=CC(=C1)C#N)I)[NH3+]
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-hydroxybenzotriazole | 4.65 mmol, 630 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 9.31 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 4.65 mmol, 890 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-[4-(pyrrolidine-1-carbonyl)benzoylamino]butyrate | C(#N)C=1C=CC(=C(OC[C@@H](CC(=O)OCC2=CC=CC=C2)NC(C2=CC=C(C=C2)C(=O)N2CCCC2)=O)C1)I | C30H28IN3O5
